US07384967B2
6-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-nicotinic acid methyl ester (100 mg, 20%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 6-mercapto-nicotinic acid methyl ester (340 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 6-mercapto-nicotinic acid methyl ester | 2 mmol, 340 mg | COC(C1=CN=C(C=C1)S)=O | C7H7NO2S
product | 6-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-nicotinic acid methyl ester | 100 mg, 20% | COC(C1=CN=C(C=C1)SC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C24H24N4O4S2
